US07875645B2
rac-2-[1-(3-Trifluoromethyl-phenyl)-propyl]-4,5-dihydro-1H-imidazole was prepared from rac-2-(3-trifluoromethyl-phenyl)-butyronitrile and ethylene diamine in analogy to Example 22: colourless powder; MS (ISP): 257.0 ((M+H)+.).

reactant | rac-2-(3-trifluoromethyl-phenyl)-butyronitrile | FC(C=1C=C(C=CC1)C(C#N)CC)(F)F | C11H10F3N
reactant | ethylene diamine | C(CN)N | C2H8N2
product | rac-2-[1-(3-Trifluoromethyl-phenyl)-propyl]-4,5-dihydro-1H-imidazole | FC(C=1C=C(C=CC1)C(CC)C=1NCCN1)(F)F | C13H15F3N2
